US07314936B2
To a solution of (3,3-dimethyl-1,5-dioxa-spiro[5,5]undec-9-yl)-methyl-amine hydrochloride (1.0 g, 4 mmol, 1.0 eq.) in THF (12 mL) was added di-tert-butyl dicarbonate (1.1 mL, 1.2 eq.), triethylamine (2 mL) and DMAP (catalytical amount). The resulting mixture was heated at 90° C. for 6, cooled to room temperature, poured in saturated NaHCO3, and the separated aqueous layer was extracted with 3×EtOAc. The combined organic layers were dried over Na2SO4, filtered and concentrated. The residue was purified by silica gel chromatography (10% EtOAc/hexanes) to give (3,3-dimethyl-1,5-dioxa-spiro[5,5]undec-9-yl)-methyl-carbamic acid tert-butyl ester (1.4 g, 91%) as a white solid.

reactant | (3,3-dimethyl-1,5-dioxa-spiro[5,5]undec-9-yl)-methyl-amine hydrochloride | 4 mmol, 1.0 g, 1.0 eq. | Cl.CC1(COC2(OC1)CCC(CC2)NC)C
reactant | di-tert-butyl dicarbonate | 1.1 mL, 1.2 eq. | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 2 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 12 mL | C1CCOC1 | C4H8O
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | (3,3-dimethyl-1,5-dioxa-spiro[5,5]undec-9-yl)-methyl-carbamic acid tert-butyl ester | 1.4 g, 91% | C(C)(C)(C)OC(N(C)C1CCC2(OCC(CO2)(C)C)CC1)=O | C17H31NO4
